US07638541B2
Step 7: 4-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-4-methyl-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-methanesulfonyloxymethyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.5 mmol), 4-methanesulfonyl-phenol (86 mg, 0.5 mmol) and Cs2CO3 (170 mg, 0.52 mmol) in acetonitrile (4 mL) was heated at 40° C. overnight. After cooling, the solid was filtered through a pad of celite. The filtrate was concentrated in vacuo. The residue was purified on silica gel (EtOAc-hexanes, 1:1) to afford the desired product. 1H NMR (CDCl3): δ 7.83 (2H, m), 7.23 (1H, s), 7.09 (2H, m), 5.2 (2H, s), 3.64-3.54 (2H, m), 3.3˜3.24 (2H, m), 2.99 (3H, s), 2.2˜2.1 (2H, m), 1.72-1.64 (2H, m), 1.41 (9H, s), 1.36 (3H, s).

reactant | 4-(4-methanesulfonyloxymethyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C=1SC=C(N1)COS(=O)(=O)C | C16H26N2O5S2
reactant | 4-methanesulfonyl-phenol | 0.5 mmol, 86 mg | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | Cs2CO3 | 0.52 mmol, 170 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 4-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C=1SC=C(N1)COC1=CC=C(C=C1)S(=O)(=O)C | C22H30N2O5S2
